US09193693B2
Step 2. 3-(Azepan-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed butyl 3-(azepan-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate (150 mg, 0.36 mmol, 1.00 equiv), methanol (15 mL), sodium hydroxide (71 mg, 1.77 mmol, 4.98 equiv), water (2 mL). The resulting solution was stirred for 2 hrs at 50° C. in an oil bath. The resulting mixture was concentrated under vacuum. The resulting solution was diluted with 20 mL of H2O. The pH value of the aqueous solution was adjusted to 4-5 with aq hydrogen chloride (1 mol/L). The resulting solids were collected by filtration. The crude product (150 mg) was purified by Prep-HPLC with the following conditions (1#-Waters 2767-1): Column, XbridgePrep Shield RP 18, 5 um, 19*150 mm; mobile phase, water with 0.05% TFA and CH3CN (60% CH3CN up to 90% in 8 min, up to 100% in 1.5 min); Detector, UV 220 254 nm. This resulted in 80 mg (61%) of 3-(azepan-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | butyl 3-(azepan-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylate | 0.36 mmol, 150 mg, 1.00 equiv | N1(CCCCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)OCCCC)C1=CC=C(C=C1)F | C25H28FN3O2
reactant | methanol | 15 mL | CO | CH4O
reactant | sodium hydroxide | 1.77 mmol, 71 mg, 4.98 equiv | [OH-].[Na+]
solvent | water | 2 mL | O | H2O
product | 3-(Azepan-1-yl)-2-(4-fluorophenyl)quinoxaline-6-carboxylic acid | N1(CCCCCC1)C=1C(=NC2=CC=C(C=C2N1)C(=O)O)C1=CC=C(C=C1)F | C21H20FN3O2
